US06469029B1
b. N-[2-(1,3-Dioxoisoindolin-2-yloxy)ethyl](phenylmethoxy)carboxamide
Diethyl azodicarboxylate (5.2 g, 30 mmol) was added to a solution of the product from the preceding experimental (5.9 g, 30 mmol), N-hydroxyphthalimide (4.9 g, 30 mmol), and triphenylphosphine (7.9 g, 30 mmol) in tetrahydrofuran (100 mL). After being stirred overnight, the mixture was diluted with ethyl acetate (200 mL), and washed with saturated aqueous NaHCO3 (2×100 mL) and brine (100 mL). The separated organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The residue was chromatographed (SiO2) using a gradient elution with 0-4% ethyl acetate in methylene chloride to give the title compound as a white solid (9.3 g, 91%). 1H-NMR (300 MHz, CDCl3) δ7.84 (m, 2H), 7.78 (m, 2H), 7.37 (m, 5H), 5.97 (bs, 1H), 5.14 (s, 2H), 4.27 (t, J=4.9 Hz, 2H), 3.51 (q, J=5.2 Hz, 2H).

reactant | Diethyl azodicarboxylate | 30 mmol, 5.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | N-hydroxyphthalimide | 30 mmol, 4.9 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 30 mmol, 7.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-(1,3-Dioxoisoindolin-2-yloxy)ethyl](phenylmethoxy)carboxamide | 9.3 g, 91% | O=C1N(C(C2=CC=CC=C12)=O)OCCNC(=O)OCC1=CC=CC=C1 | C18H16N2O5
